US04689330
A mixture of 4 parts of 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-α-methyl-4-piperidinemethanamine, 2.7 parts of 2-chlorobenzothiazole, 1.5 parts of calcium oxide and 18 parts of N,N-dimethylacetamide was stirred for 4 hours at 140° C. The whole was filtered and to the filtrate was added 4-methyl-2-pentanone. The whole was washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichoromethane and methanol (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol and acetonitrile. The salt was filtered off and dried, yielding 3.4 parts (39.7%) of N-[1-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]ethyl]-2-benzothiazolamine ethanedioate(1:2); mp. 179.6° C. (compound 60).

reactant | 1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-α-methyl-4-piperidinemethanamine | O1C(COC2=C1C=CC=C2)CN2CCC(CC2)C(N)C | C16H24N2O2
reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | calcium oxide | [O-2].[Ca+2]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | N-[1-[1-[(2,3-dihydro-1,4-benzodioxin-2-yl)methyl]-4-piperidinyl]ethyl]-2-benzothiazolamine ethanedioate | 39.7% | C(C(=O)O)(=O)O.O1C(COC2=C1C=CC=C2)CN2CCC(CC2)C(C)NC=2SC1=C(N2)C=CC=C1 | InChI=1S/C23H27N3O2S.C2H2O4/c1-16(24-23-25-19-6-2-5-9-22(19)29-23)17-10-12-26(13-11-17)14-18-15-27-20-7-3-4-8-21(20)28-18;3-1(4)2(5)6/h2-9,16-18H,10-15H2,1H3,(H,24,25);(H,3,4)(H,5,6)
